US07576215B2
2-CHLOROPHENYL {3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}CARBAMATE
The title compound was prepared from [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone and 2-chlorophenyl chloroformate according to the procedure of Example 65. MS (ES) m/z 546.9.

reactant | [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | 2-chlorophenyl chloroformate | ClC(=O)OC1=C(C=CC=C1)Cl | C7H4Cl2O2
product | 2-CHLOROPHENYL {3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}CARBAMATE | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NC(OC1=C(C=CC=C1)Cl)=O)C(F)(F)F | C30H18ClF3N2O3
